US06713471B1
1-{2-[(3-Chloropropyl)sulfanyl]-5-nitrophenyl}hydrazine (100 mg, 0.38 mmol) and 4-piperidone mono hydrate (58 mg, 0.38 mmol) were dissolved in trifluoroethanol (1 mL) andheated at reflux for 1 hour. To this was added 12 N HCl (3 mL) and the reaction allowed to heat at reflux for 2 hours. The product percipatated out upon cooling to room temperature, it was filtered off and washed with cold 2-propanol to give 3-chloropropyl 9-nitro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yl sulfide (120 mg, 75.4%). 1H NMR (CD3OD, 300 MHz): δ8.00 (d, 1H, J=8.4 Hz), 7.30 (d, 1H, J=8.4 Hz), 4.68 (s, 2H), 3.69 (t, 2H, J=6.2 Hz), 3.60 (t, 2H, J=6 Hz), 3.23 (t, 2H, J=6.2 Hz), 2.08 (q, 2H, J=6.2 Hz) ppm.

reactant | 1-{2-[(3-Chloropropyl)sulfanyl]-5-nitrophenyl}hydrazine | 0.38 mmol, 100 mg | ClCCCSC1=C(C=C(C=C1)[N+](=O)[O-])NN | C9H12ClN3O2S
reactant | 4-piperidone mono hydrate | 0.38 mmol, 58 mg | O.N1CCC(CC1)=O
reactant | HCl | 12 N, 3 mL | Cl | ClH
solvent | trifluoroethanol | 1 mL | C(C(F)(F)F)O | C2H3F3O
product | 3-chloropropyl 9-nitro-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-6-yl sulfide | 120 mg, 75.4% | [N+](=O)([O-])C=1C=2C3=C(NC2C(=CC1)SCCCCl)CCNC3 | C14H16ClN3O2S
